US04831041
A solution of 3-(2-chloromethylbenzyloxy)-2-nitropyridine (4.09 g) and potassium phthalimide (2.99 g) in N,N-dimethylformamide (41 ml) was stirred at 50° C. for 9.5 hours. The reaction mixture was poured into water (200 ml) and extracted twice with ethyl acetate (250 ml). The combined extract was washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the resultant residue was recrystallized from ethyl acetate to give 2-nitro-3-(2-phthalimidomethylbenzyloxy)pyridine (2.7 g).

reactant | 3-(2-chloromethylbenzyloxy)-2-nitropyridine | 4.09 g | ClCC1=C(COC=2C(=NC=CC2)[N+](=O)[O-])C=CC=C1 | C13H11ClN2O3
reactant | potassium phthalimide | 2.99 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 41 ml | CN(C=O)C | C3H7NO
product | 2-nitro-3-(2-phthalimidomethylbenzyloxy)pyridine | 2.7 g | [N+](=O)([O-])C1=NC=CC=C1OCC1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C21H15N3O5
